US07442698B2
N-(2-methoxy-4-nitrophenyl)chloroacetamide
2-Methoxy-4-nitroaniline (8.40 g, 50 mmol) was dissolved in 200 mL dichloromethane and stirred at 0° C. while adding diisopropylethylamine (6.45 g, 50 mmol) then a solution of chloroacetyl chloride (5.65 g, 50 mmol) in 50 mL dichloromethane. The mixture was stirred for 17 h at 20-25° C., evaporated and 300 mL ethyl acetate added. The solution was washed with 2×100 mL 2M hydrochloric acid then brine, dried (sodium sulphate) and evaporated. The residue dissolved in 200 mL warm toluene, charcoaled then chromatographed on 300 mL flash silica in a 10 cm sinter funnel. Elution with toluene and evaporation afforded a bright yellow oil which solidified on standing. NMR showed an 11:4 mixture of product and starting aniline—product δ 9.17(s, 1H), 8.56(m,1H), 7.94(m, 1H), 7.79(m, 1H), 4.22(s, 2H), 4.03(s, 3H). Used without further purification.

reactant | 2-Methoxy-4-nitroaniline | 50 mmol, 8.40 g | COC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O3
reactant | diisopropylethylamine | 50 mmol, 6.45 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloroacetyl chloride | 50 mmol, 5.65 g | ClCC(=O)Cl | C2H2Cl2O
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-(2-methoxy-4-nitrophenyl)chloroacetamide | COC1=C(C=CC(=C1)[N+](=O)[O-])NC(CCl)=O | C9H9ClN2O4
